US05705515
EXAMPLE 11 5-(2-Bromoacetyl)-3-methylisoxazole
A solution of 0.43 g (3.43 mmol) of 5-acetyl-3-methylisoxazole (for synthesis see S. Chimichi, B. Cosimelli, Synth. Comm. 1992, 22, 2909-2920) in 10 mL of THF was added to a solution of 688 mg (2.41 mmol) of dibromobarbituric acid in 10 mL of THF. The colorless solution was heated at reflux for 20 h, cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic phase was separated and the aqueous phase re-extracted with ethyl acetate. The combined organic phase was washed with water, brine, dried(MgSO4) and the solvent removed in vacuo. Flash chromatography (silica gel, 40-50% dichloromethane-hexanes) afforded 337 mg (48%) of the title compound: 1H NMR (400 MHz, CDCl3) 6.87 (s, 1H), 4.39 (s, 2H), 2.38 (s, 3H).

reactant | 5-acetyl-3-methylisoxazole | 3.43 mmol, 0.43 g | C(C)(=O)C1=CC(=NO1)C | C6H7NO2
reactant | dibromobarbituric acid | 2.41 mmol, 688 mg | BrC1(C(NC(NC1=O)=O)=O)Br | C4H2Br2N2O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(2-Bromoacetyl)-3-methylisoxazole | 337 mg, 48% | BrCC(=O)C1=CC(=NO1)C | C6H6BrNO2
